US05102890
The procedure is as in Example 1, but starting with 3-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone (9.9 g) in anhydrous dimethylformamide (100 cc), 4-oxocyclohexanecarboxylic acid (4.25 g) and 1,8-diazabicyclo[5.4.0]undec-7-ene (4.6 g). After recrystallization in acetonitrile, 2-(7-chloro-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyl 4-oxocyclohexanecarboxylate (8.5 g), m.p. 203° C., is obtained.

reactant | 3-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone | 9.9 g | ClC1=CC=C2C=CC(=NC2=N1)C1NC(C2=CC=CC=C12)=O | C16H10ClN3O
reactant | 4-oxocyclohexanecarboxylic acid | 4.25 g | O=C1CCC(CC1)C(=O)O | C7H10O3
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 4.6 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | dimethylformamide | 100 cc | CN(C=O)C | C3H7NO
product | 2-(7-chloro-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyl 4-oxocyclohexanecarboxylate | 8.5 g | O=C1CCC(CC1)C(=O)OC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)Cl | C23H18ClN3O4
